US06277840B1
3.8 g of 4-amino-1-benzylpiperidine (20 mmol) was combined with 4.7 g of dicyclohexylcarbodiimide (23 mmol) in 80 ml of DMF and stirred for 12 hours at 80° C. The solvent was evaporated in vacuo and the residue was flash-chromatographed using ethyl acetate/methanol (1:1) whereby 54. g of 1-benzyl-4(N′, N″-dicyclohexyl-guanidino)piperidine was obtained (71%). 5 g of the product (12.6 mmol) was dissolved in 60 ml of methanol and hydrogenated using 0.6 g of Pd(C) at 2 bar hydrogen pressure. Thus obtained was 4 g of 4(N′, N″-dicyclohexyl -guanidino)-piperidine (63%). 2.14 g of the product (7 mmol) was combined with 2.9 g of (R)-2-methylsulphonyloxy-N-methyl-N-[2-(3,5-bistrifluoromethyl-phenyl)-ethyl]-phenylacetamide (6 mmol), 60 ml of DMF and 0.96 ml of triethylamine and stirred for 3 hours at 65° C. The residue obtained after concentrating the raw product was chromatographed over silica gel with ethyl acetate/methanol (1:1) as an eluant, whereupon 0.6 g of the desired substance was obtained.

reactant | 4-amino-1-benzylpiperidine | 20 mmol, 3.8 g | NC1CCN(CC1)CC1=CC=CC=C1 | C12H18N2
reactant | dicyclohexylcarbodiimide | 23 mmol, 4.7 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | DMF | 80 ml | CN(C)C=O | C3H7NO
product | 1-benzyl-4(N′, N″-dicyclohexyl-guanidino)piperidine | C(C1=CC=CC=C1)N1CCC(CC1)NC(=NC1CCCCC1)NC1CCCCC1 | C25H40N4
